US07244747B2
In a 50 ml three necked flask fitted with a magnetic stirrer, under inert atmosphere, thionyl chloride (2.72 g, 0.023 mmol) is added to the crude 4-bromo-N-(1-hydroxy-cyclopropyl)-butyramide a16 (2.3 g, 9.13 mmol) in CHCl3 (20 ml). After 3 h at room temperature, the light orange reaction mixture is evaporated, diluted in THF (5 ml) and added into another 50 ml three necked flask fitted with a magnetic stirrer, under inert atmosphere, containing a solution of imidazole (0.622 g, 9.1 mmol) and Et3N (2.8 g) in THF (20 ml) at room temperature. After 6 h, the reaction mixture is cooled down to 0° C., filtrated and concentrated in vacuo to give the crude 4-bromo-N-(1-imidazol-1-yl-cyclopropyl)-butyramide a18 (2.76 g) which is used in the next step without any further purification.

reactant | thionyl chloride | 0.023 mmol, 2.72 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-bromo-N-(1-hydroxy-cyclopropyl)-butyramide | BrCCCC(=O)NC1(CC1)O | C7H12BrNO2
reactant | imidazole | 9.1 mmol, 0.622 g | N1C=NC=C1 | C3H4N2
reactant | Et3N | 2.8 g | CCN(CC)CC | C6H15N
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-bromo-N-(1-imidazol-1-yl-cyclopropyl)-butyramide | BrCCCC(=O)NC1(CC1)N1C=NC=C1 | C10H14BrN3O
